US07037938B2
A mixture of 4-[[4-[2-[N-benzyl-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl] (hydroxy)methyl]phenol (545 mg) in 4N hydrogen chloride in 1,4-dioxane (1.0 ml) was stirred for 5 minutes. The solvent was removed by evaporation. A suspension of the residue in ethanol (2.2 ml) and chlorobenzene (5.2 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 55 mg) under hydrogen atmosphere for 2 hours. The catalyst was filtered off, and the filtrate was evaporated. The residue was diluted with ethyl acetate and saturated sodium biscarbonate solution. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated under reduced pressure to give 4-[4-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]benzyl]phenol (395 mg)

reactant | 4-[[4-[2-[N-benzyl-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]phenyl] (hydroxy)methyl]phenol | 545 mg | C(C1=CC=CC=C1)N(C[C@H](O)C1=CC(=CC=C1)Cl)CCC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)O | C30H30ClNO3
solvent | hydrogen chloride | 4N | Cl | ClH
solvent | 1,4-dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | 4-[4-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]benzyl]phenol | 395 mg | ClC=1C=C(C=CC1)[C@H](CNCCC1=CC=C(CC2=CC=C(C=C2)O)C=C1)O | C23H24ClNO2
